US08648038B2
Ethyl 3-{4-[2-(2-bromo-4-isopropylphenoxy)propionylamino]phenyl}-3-methoxypropionate
To a solution of 150 mg (0.67 mmol) of ethyl 3-(4-aminophenyl)-3-methoxypropionate, 116 mg (1.01 mmol) of N-ethylmorpholine, 123 mg (0.81 mmol) of HOBt hydrate and 125 mg (0.81 mmol) of EDAC in 2 ml of DMF was added a solution of 212 mg (0.74 mmol) of 2-(2-bromo-4-isopropylphenoxy)propionic acid in 2 ml of DMF. After 22 h at room temperature, the reaction mixture was diluted with sodium chloride solution and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. This gave 331 mg of ethyl 3-{4-[2-(2-bromo-4-isopropylphenoxy)propionylamino]phenyl}-3-methoxypropionate.

reactant | ethyl 3-(4-aminophenyl)-3-methoxypropionate | 0.67 mmol, 150 mg | NC1=CC=C(C=C1)C(CC(=O)OCC)OC | C12H17NO3
reactant | N-ethylmorpholine | 1.01 mmol, 116 mg | C(C)N1CCOCC1 | C6H13NO
reactant | HOBt hydrate | 0.81 mmol, 123 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDAC | 0.81 mmol, 125 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-(2-bromo-4-isopropylphenoxy)propionic acid | 0.74 mmol, 212 mg | BrC1=C(OC(C(=O)O)C)C=CC(=C1)C(C)C | C12H15BrO3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | sodium chloride | [Cl-].[Na+]
product | Ethyl 3-{4-[2-(2-bromo-4-isopropylphenoxy)propionylamino]phenyl}-3-methoxypropionate | BrC1=C(OC(C(=O)NC2=CC=C(C=C2)C(CC(=O)OCC)OC)C)C=CC(=C1)C(C)C | C24H30BrNO5
